US05958942
i) Synthesis of 4,5-dihydro-4[5-(amino)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylen-5-one-dihydrochloride
To a solution of 2.24 g (6.25 mmol) of 4,5-dihydro-4[5-(tert-butoxycarbonylamino)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylen-5-one in 20 ml of ethanol was added 20 ml of conc. HCl. The mixture was stirred for 1.5 hour at room temperature. The solvent was distilled off to leave 2.05 g of the desired compound (quant. a pale brown solid). This product was used in the subsequent reaction without further purification. NMR(200 MHz,D2O)δ: 1.28-1.90(6H,m), 2.94(2H,t,J=7.2 Hz), 3.60(2H,t,J=7.2 Hz), 5.16(2H,s), 7.75(1H,s), 7.82-7.95(3H,m).

reactant | 4,5-dihydro-4[5-(tert-butoxycarbonylamino)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylen-5-one | 6.25 mmol, 2.24 g | C(C)(C)(C)OC(=O)NCCCCCN1CC2=CN=C3C=CC=C(C1=O)N32 | C19H26N4O3
reactant | HCl | 20 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4,5-dihydro-4[5-(amino)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylen-5-one-dihydrochloride | 2.05 g | Cl.Cl.NCCCCCN1CC2=CN=C3C=CC=C(C1=O)N32 | InChI=1S/C14H18N4O.2ClH/c15-7-2-1-3-8-17-10-11-9-16-13-6-4-5-12(14(17)19)18(11)13;;/h4-6,9H,1-3,7-8,10,15H2;2*1H
